Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Diflucan
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
Arthrocentesis

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
Mr. ___ is a ___ man from ___ with a PMH of
HTN, HL, prostatis, H. pylori, and positive PPD who presents 
with
4 days of right knee swelling and pain, diffuse body aches and
fever to ___. He reports headache, fevers, chills, and
diffuse myalgias over the past four days, as well as mild
abdominal pain, nausea without emesis, and dry eyes, dry mouth
and blurry vision over the same time frame. He denies sore
throat, constipation, diarrhea, rash, urinary symptoms, and
morning joint stiffness. He does endorse intermittent chest pain
that has been going on since a colonoscopy six months ago and a
prolonged dry cough. He denies any trauma to his R knee. He has
never had symptoms like this before. 

He returned from ___ three weeks ago, where he was 
active
outside. He received multiple bee stings and mosquito bites 
while
there and per his report was admitted to the hospital for
antibiotics after the bee stings on his back and ankle got
infected. He was discharged with a seven day course of
Ciprofloxacin. He does not spend time in the woods here and does
not know of any tick bites. None of his contacts here or in
___ have been sick, although he was around his
grandchildren. He was previously started on quadruple therapy 
for
H. Pylori on ___, but stopped taking the course when he 
developed
GI upset.

In the ED:
- Initial vital signs were notable for: T 98.1 (after Tylenol at
Urgent Care), HR 91, BP 118/71, RR 16, SpO2 94% on RA. TMax in
the ED 102.2.

- Exam notable for:
Constitutional: In mild distress
HEENT: Normocephalic, atraumatic
Resp: Normal work of breathing, symmetric chest expansion, ctabl
CV: Regular rate and rhythm, faint heart sounds
Abd: Soft, nontender, nondistended
Neuro: AOx3 moves all extremities
MSK: very swollen right knee, significant TTP, severely limited
passive and active ROM.
Psych: Normal mood, normal mentation

- Labs were notable for:
WBC 8.3, with absolute monocytosis to 1.14
Na 132->139
CL 93-> 97
INR 1.3
Lactate 3.7-> 0.9 (after IVF)
CRP 77.1
UA negative
LFTs normal, Albumin 4.3

- Studies performed include:
Arthrocentesis: WBC 2193, RBC 3510, Poly 3, Lymph 18, Mono 0,
Macro 79, Crystal None
Gram stain: 
NO POLYMORPHONUCLEAR LEUKOCYTES SEEN
NO MICROORGANISMS SEEN

Chest XRay:
IMPRESSION:  
  No evidence of acute cardiopulmonary disease. Suspected
bilateral nipple shadows. 
  RECOMMENDATION(S): To exclude pulmonary nodules, follow-up PA
chest  radiographs are recommended without and with nipple
markers for confirmation 
 of suspected nipple shadows. 

- Patient was given:
___ 03:24 PO OxyCODONE (Immediate Release) 5 mg 
___ 06:16 IVF  NS 1000 mL 
___ 03:24 PO Acetaminophen 1000 mg 
___ 05:00 IV CefTRIAXone 2 gm 
___ 06:04 IV Morphine Sulfate 4 mg 
___ 06:53 IV Vancomycin (1500 mg ordered)
___ 08:39 IVF  NS 1000 mL 
 
- Consults: None

Upon arrival to the floor, T98.2 BP 153 / 79 HR 79 RR18 SPO2 97
RA 

 
Past Medical History:
PAST MEDICAL HISTORY:
abdominal pain, colon polyps, H. pylori
serology, reflux, prostatitis, hyperlipemia, Dupuytren's
contracture, hypertension, positive PPD.

SURGICAL HISTORY:
Hydrocele
Skin Cancer
Transurethral Prostatectomy
 
Social History:
___
Family History:
Father died of pneumonia. No family history of autoimmune
disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: T98.2 BP 153 / 79 HR 79 RR18 SPO2 97 RA 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No JVD.
LYMPH: No cervical or axillary lymphadenopathy. 
CARDIAC: Regular rhythm, normal rate. Somewhat distant S1 and 
S2.
No murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: Right knee warm and swollen with limited active and
passive ROM and TTP. No TTP of other small joints of hands and
wrists. No clubbing, cyanosis, or edema. Pulses DP/Radial 2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes on full body skin exam. 
NEUROLOGIC: AOx3. Moving all four extremities.

DISCHARGE PHYSICAL EXAM
======================= 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No JVD.
CARDIAC: Regular rhythm, normal rate. Somewhat distant S1 and 
S2.
No murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: Right knee warm and swollen with slight limitation
in active and passive ROM, although significantly improved from
prior.
SKIN: Warm. No rashes. 
NEUROLOGIC: AOx3. Moving all four extremities.
 
Pertinent Results:
ADMISSION LABS  
===============  
___ 01:00AM BLOOD WBC-8.3 RBC-5.55 Hgb-15.8 Hct-48.8 MCV-88 
MCH-28.5 MCHC-32.4 RDW-13.5 RDWSD-43.3 Plt ___
___ 01:00AM BLOOD Neuts-50.2 ___ Monos-13.7* 
Eos-3.2 Baso-0.8 Im ___ AbsNeut-4.16 AbsLymp-2.65 
AbsMono-1.14* AbsEos-0.27 AbsBaso-0.07
___ 01:00AM BLOOD Glucose-143* UreaN-8 Creat-0.9 Na-139 
K-4.0 Cl-97 HCO3-21* AnGap-21*
___ 01:00AM BLOOD ALT-33 AST-22 CK(CPK)-192 AlkPhos-62 
TotBili-0.8
___ 09:31PM BLOOD cTropnT-<0.01
___ 01:05AM BLOOD Lactate-3.7*
___ 01:00AM   ___ PTT-31.7 ___
___ 01:00AM   CRP-77.7*

INTERVAL LABS  
=============  
___ 07:24AM   ___
___ 07:37AM   LACTATE-0.9
___ 08:00AM BLOOD HIV Ab-NEG

DISCHARGE LABS  
===============  
___ 07:54AM BLOOD WBC-5.4 RBC-4.99 Hgb-14.2 Hct-43.2 MCV-87 
MCH-28.5 MCHC-32.9 RDW-13.2 RDWSD-41.3 Plt ___
___ 07:54AM BLOOD Glucose-133* UreaN-10 Creat-0.6 Na-142 
K-4.5 Cl-103 HCO3-29 AnGap-10

MICRO  
=====  
__________________________________________________________
___ 4:25 am JOINT FLUID      Source: Knee. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 
__________________________________________________________
___ 12:45 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 12:10 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 9:25 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    10,000-100,000 
CFU/mL. 
__________________________________________________________
___ 4:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

IMAGING  
========  
___ CXR: 
IMPRESSION: 
 
No evidence of acute cardiopulmonary disease.  Suspected 
bilateral nipple
shadows.
 
RECOMMENDATION(S):  To exclude pulmonary nodules, follow-up PA 
chest
radiographs are recommended without and with nipple markers for 
confirmation
of suspected nipple shadows.

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE
=========================
Mr. ___ is a ___ man with a PMH of HTN, HL, 
prostatis, H. pylori, and positive PPD who presented with 4 days 
of fever to ___, generalized myalgias and inflammatory 
monoarthritis after traveling to ___ three weeks ago 
with overall presentation concerning for infection, now 
improving without continued antibiotics. He was given one dose 
of vancomycin and ceftriaxone in the emergency department as his 
initial presentation was concerning for a septic arthritis. 
Arthrocentesis of his right knee revealed ~2200 WBCs more 
consistent with an inflammatory process than a bacterial 
infection so further antibiotic doses were held. He remained 
afebrile after admission to the medicine service and his 
symptoms were slowly improving. ID was consulted for assistance 
with diagnosis and recommended testing for lyme, dengue fever, 
and chikungunya. Results for all of these were pending at time 
of discharge. Patient was felt to be stable for discharge home 
with outpatient follow up. He was given a prescription for 
doxycycline to treat presumptive lyme disease for 28 days with 
plans to stop his treatment course if testing returns negative. 

TRANSITIONAL ISSUES
=========================
Medications started: Amlodipine 5 mg. Doxycycline 100 mg bid x 
28 days (___).
Medications stopped: None

[] Please follow up infectious studies which are still pending 
including: Lyme serologies, Dengue fever serologies, Chikungunya 
serologies, and final blood and joint fluid cultures. If Lyme 
serologies are negative, a Lyme PCR on joint fluid will be sent 
by the lab. 
[] BPs uncontrolled here. Patient started on 5 mg amlodipine. 
Please continue to monitor hypertension and manage regimen as 
needed.
[] Patient reported several month history of bilateral hip pain 
(unchanged with movement) and bilateral shoulder pain (worse 
with movement). He denied morning stiffness. Could consider 
rheumatologic workup ___ negative here). 

# Fever
# Monoarthritis 
Patient presented with a four day history fevers to 102-104, 
right knee monoarthritis, and generalized malaise/myalgias. WBC 
8.3 on arrival and CRP elevated at 77. Initial lactate was 3.7 
and sodium was 132, but these rapidly corrected to Na 139 and 
lactate 0.9 after 2L IVF. LFTs were normal. CXR and UA were 
obtained without significant findings. Urine culture grew likely 
contaminant coag negative staph. Blood cultures were without 
growth at the time of discharge. He was given Ceftriaxone and 
Vancomycin x1 in the ED. He underwent arthrocentesis, which 
showed WBC 2193, RBC 3510, Poly 3, Lymph 18, Mono 0, Macro 79, 
no crystals. Joint fluid gram stain was negative for PMNs and 
microorganisms. Joint fluid culture was without growth at time 
of discharge.

His overall presentation was felt to be suspicious for infection 
process, with rheumatologic, malignancy, and drug reaction being 
less likely. The leading differentials included Lyme disease, 
Dengue fever, Chikungunya and Zika virus given his recent travel 
to ___. A reactive arthritis was considered given his 
monoarthritis and blurry vision, although he was found not to 
have anterior uveitis on ophthalmological exam. Infectious 
Disease was consulted to aid with a broad infectious workup. HIV 
screen, ___, and Urine GC/Chlamydia were negative. A number of 
studies remain pending including Lyme, Dengue fever and 
Chikungunya serologies. 

Given the diagnostic uncertainty, he was maintained off of 
antibiotics while inpatient. He was initially treated with 
Tylenol and 2.5 mg oxycodone PRN for pain control and then 
transitioned to ibuprofen. He improved clinically on his own and 
remained afebrile throughout admission. The most likely 
diagnosis at discharge was felt to be Lyme disease vs. Viral 
syndrome causing arthritis. He was discharged on doxycycline 100 
mg bid x28 days with a plan for ID follow-up.

# Blurry vision
# Dry eyes
Patient reported dry mouth and eyes and blurry vision over the 
past four days, concurrent with his other symptoms. He was seen 
by Ophthalmology who found no evidence of anterior uveitis and 
recommended artificial tears QID for dry eyes. 

#HTN: He was continued on his home lisinopril. BPs were poorly 
controlled, so he was started on 5 mg amlodipine. 

# Anion Gap Metabolic Acidosis, resolved
Patient had a mild anion gap metabolic acidosis on presentation 
in the setting of elevated lactate. Lactate downtrended and 
metabolic acidosis resolved after fluid administration. 

CHRONIC ISSUES:
==============
#HL: He was continued on his home pravastatin. 

#BPH: He was continued on his home finasteride and tamsulosin.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 5 mg PO QPM 
2. Finasteride 5 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Tamsulosin 0.4 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Artificial Tears ___ DROP BOTH EYES Q6H:PRN dry eyes/blurred 
vision  
3.  Doxycycline Hyclate 100 mg PO BID Duration: 28 Days 
Please wear sunscreen and hats and avoid sun exposure. Take 
twice per day for 28 days.  
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*56 Tablet Refills:*0 
4.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild  
5.  Finasteride 5 mg PO DAILY  
6.  Lisinopril 40 mg PO DAILY  
7.  Rosuvastatin Calcium 5 mg PO QPM  
8.  Tamsulosin 0.4 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
==============
Febrile monoarthritis

SECONDARY
============
Dry Eyes
Anion gap metabolic acidosis
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You were admitted for fever and right knee pain and swelling.  


WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- You had fluid removed from your knee and analyzed for signs of 
infection. There were signs of inflammation but the testing was 
not consistent with a bacterial joint infection.
- You had a number of tests performed to try to identify the 
cause of your fever and knee pain. Many of these were still 
pending at discharge and will need follow up. 
- You were improving on your own and we ruled out several 
dangerous causes of your symptoms so felt that you were safe to 
be discharged to follow up with your primary care doctor and 
infectious disease doctors as ___ outpatient.  

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please follow up with your primary care doctor for the final 
results of your tests. 
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  
- You should take an antibiotic (doxycycline) twice per day for 
28 days (until ___ for possible Lyme disease. This 
medication can cause sun sensitivity and you should take 
appropriate precautions while on it. Please wear suncscreen any 
time you are outside in addition to a hat. ___ exposure during 
the afternoon should be limited. 
- The infectious disease doctors ___ with a follow up 
appointment in ___ weeks. They may want to change these 
antibiotic instructions.
- You can take Tylenol or ibuprofen as needed for your knee pain 
and swelling. 

We wish you all the best!

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___